US08431538B2
An argon filled RB flask containing carbazole (0.500 g, 2.99 mmol) at 0° C. was treated with dichloromethane (12.5 mL) and triethylamine (2.5 mL), followed by slow addition of ethyl chloroformate (0.59 mL, 5.98 mmol). The mixture was stirred at ambient temperature for 16 h, poured into 25 mL of 2N HCl, and extracted with chloroform. The organic portion was washed with saturated aqueous NaHCO3 and brine, dried (Na2SO4) and concentrated. The crude product was treated with methanol (4 mL) and filtered. The filtrate was concentrated to give carbazole-9-carboxylic acid ethyl ester (169 mg). Carbazole-9-carboxylic acid ethyl ester (95 mg, 0.39 mmol) was converted to hydroxamic acid by procedure A. Purification by HPLC gave the title compound (19 mg). 1H NMR (400 MHz, CD3CN): δ 9.43 (br, 1H), 8.08 (d, 2H, J=7.7 Hz), 7.50 (d, 2H, J=8.1 Hz), 7.43 (t, 2H, J=7.1 Hz), 7.22 (t, 2H, J=7.1 Hz). 13C NMR APT (100 MHz, CD3OD): δ 125.8 (down), 120.3 (down), 119.4 (down), 110.6 (down). ESI-MS (m/z): [M+Na]+ 249.6. Analytical HPLC: Purity=99%, tR=8.51 min, Method A.

reactant | carbazole | 2.99 mmol, 0.500 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | dichloromethane | 12.5 mL | ClCCl | CH2Cl2
reactant | ethyl chloroformate | 5.98 mmol, 0.59 mL | ClC(=O)OCC | C3H5ClO2
reactant | HCl | 2N, 25 mL | Cl | ClH
solvent | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
product | carbazole-9-carboxylic acid ethyl ester | 169 mg | C(C)OC(=O)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H13NO2
